Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pelvic pain endometriosis
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy 
Right salpingo-oophorectomy
Left salpingectomy
Enterolysis and ureterolysis
Rigid sigmoidoscopy
Cystoscopy 
Serosal bowel oversew 

 
History of Present Illness:
Ms. ___ was a ___ G0 with a long history of pelvic pain 
when she presented to clinic for evaluation of endometriosis. 
She stated that in ___, she underwent an open surgery to treat 
endometriosis and remove small fibroids. In ___ she underwent a 
laparoscopic cystectomy to treat endometriosis and underwent 
attempts at conception through IVF which were unsuccessful. She 
had been told her endometriosis was extensive. In addition, she 
had a recent colposcopy for abnormal pap smear which revealed 
CIN-2, with a negative ECC. She also endorsed pain with 
intercourse, full bladder, and bowel movements. 

She presented to the office for a consultation regarding the 
surgical management of the same issue. She was counseled 
extensively and opted to proceed with surgical management.  

 
Past Medical History:
BSTETRICAL HISTORY:
Failed IVF cycles

GYNECOLOGICAL HISTORY:
As per HPI

PAST MEDICAL HISTORY:
___

PAST SURGICAL HISTORY:
Ex lap myomectomy and treatment of endometriosis
Laparoscopy treatment of endometriosis cystectomy
Laparoscopic appendectomy
Laparoscopic cholecystectomy
 
Social History:
___
Family History:
Pancreatic cancer
Breast cancer in a paternal aunt the postmenopausal

Recent ultrasound at an outside institution reveals a 14 cm
uterus with multiple fibroids.  No ovarian cysts are identified. 


 
Physical Exam:
PE: 
Gen: Comfortable, sitting in bed
CV: RRR, no murmurs, rubs or gallops
Pulm: CTAB, no rhales, rhonchi, or wheezes
Abd: soft, appropriately tender. Dressings: mild serosanguinous
drainage at one dressing site but otherwise dressings clean, dry
and intact. 
GU: pad with scant spotting
 
Pertinent Results:
___ 02:53PM BLOOD WBC-7.9 RBC-2.81* Hgb-7.4* Hct-23.5* 
MCV-84 MCH-26.3 MCHC-31.5* RDW-14.2 RDWSD-43.2 Plt ___
___ 07:30AM BLOOD Glucose-101* UreaN-10 Creat-0.6 Na-143 
K-3.5 Cl-107 HCO3-26 AnGap-10
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a laparoscopic total hysterectomy, right 
salpingoophorectomy, left salpingectomy, enterolysis, bilateral 
ureterolysis, ridged sigmoidoscopy, cystoscopy, left ovarian 
cystectomy, and treatment of endometriosis. 

Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol.

On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to oral 
oxycodone, ibuprofen, acetaminophen. 

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 300 mL with 0 mL residual.

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
atenolol 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not take more than 4 grams in 24 hours 
RX *acetaminophen 500 mg ___ capsule(s) by mouth q6h PRN Disp 
#*60 Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID PRN Disp 
#*60 Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
___ cause drowsiness. Do not drive or drink alcohol while on 
this medication.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4h PRN Disp #*30 
Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0 
5.  Atenolol 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid uterus
Endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* If TLH/TVH: Nothing in the vagina (no tampons, no douching, no 
sex) for 3 months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Dear Ms. ***,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___****'s office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* If TAH/SCH/MMY: Nothing in the vagina (no tampons, no 
douching, no sex) for 6 weeks.
* If TLH/TVH: Nothing in the vagina (no tampons, no douching, no 
sex) for 3 months.
--- ___ ___ pt's and TAH patients --- 6 weeks ---
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___